US05057614
To a suspension of 105 mg of indole in 20 ml of benzene were added 0.6 ml of a 3M solution of methylmagnesium bromide in diethyl ether under nitrogen. The mixture was stirred for 0.5 hour. 100 mg of 3-bromo-4-(5-methoxy-3-indolyl)-1H-pyrrole-2,5-dione were added and the mixture was heated to reflux for 5 days. After cooling the residue was partitioned between dichloromethane and 2M hydrochloric acid. The organic extracts were washed with water, dried and evaporated. The residue was purified on silica gel with 1% methanol in dichloromethane and then with 50% methanol/0.1% trifluoroacetic acid/water on Spherisorb to give 3 mg of 3-(3-indolyl)-4-(5-methoxy-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 280° C.

reactant | indole | 105 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methylmagnesium bromide | C[Mg]Br
reactant | 3-bromo-4-(5-methoxy-3-indolyl)-1H-pyrrole-2,5-dione | 100 mg | BrC=1C(NC(C1C1=CNC2=CC=C(C=C12)OC)=O)=O | C13H9BrN2O3
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3-indolyl)-4-(5-methoxy-3-indolyl)-1H-pyrrole-2,5-dione | 3 mg | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CNC2=CC=C(C=C12)OC)=O)=O | C21H15N3O3
